US05432164
9-(2',3',5'-Tri-O-acetyl-β-D-ribofuranosyl)-2-amino-6-chloro-(9H)-purine (6.0 g, 14 mmol) (prepared as described by Robins, M. J. and Uznanski, B., in Nucleic Acid Chemistry (Townsend, L. B. and Tipson, R. S., eds.,) John Wiley and Sons, Inc., 1986, 3, 144) was dissolved in dioxan (100 ml). 1-Aminopiperidine (1.83 ml, 16.95 mmol) was added followed by triethylamine (2.33 ml, 18.5 mmol) and the solution was stirred for 190 hours at room temperature. The reaction mixture was filtered, evaporated and the resultant residue was purified by column chromatography on silica gel eluting with ethyl acetate/cyclohexane (3/1) to afford 2',3',5'-tri-O-acetyl-2-amino-N-(1-piperidinyl)adenosine (4.88 g, 71%) as a foam which solidified on coevaporation with methanol: m.p. 77°-79° C. 1H NMR (400 MHz, Me2SO-d6) δ2.04 (6H, s, 2' and 3'-O-acetyl-CH3), 2.13 (3H, s, 5'-O-acetyl-CH3), 4.30 (2H, m, H-5'a and H-4'), 4.40 (1H, dd, H-5'b) 6.03 (1H, d, H-1').

reactant | 9-(2',3',5'-Tri-O-acetyl-β-D-ribofuranosyl)-2-amino-6-chloro-(9H)-purine | 14 mmol, 6.0 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)Cl)N | C16H18ClN5O7
reactant | 1-Aminopiperidine | 16.95 mmol, 1.83 ml | NN1CCCCC1 | C5H12N2
reactant | triethylamine | 18.5 mmol, 2.33 ml | C(C)N(CC)CC | C6H15N
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | 2',3',5'-tri-O-acetyl-2-amino-N-(1-piperidinyl)adenosine | 4.88 g, 71% | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(NN3CCCCC3)=NC(=NC12)N | C21H29N7O7
